US05236952
A solution of 11.25 g of 2-hydroxyacetophenone in 100 ml of absolute dimethylformamide is added dropwise under an argon atmosphere within 15 minutes to a suspension of 3.6 g of a 55 percent sodium hydride dispersion in 50 ml of absolute dimethyformamide and the mixture is stirred at room temperature for 1 hour. After cooling to 0°, a solution of 20.3 g of 3,4-dimethoxy-5-nitrobenzoyl chloride in 100 ml of absolute dimethylformamide is added dropwise thereto within 20 minutes and the mixture is stirred at room temperature overnight. The reaction mixture is poured into ice-water, whereupon the mixture is extracted twice with 250 ml of ethyl acetate each time. The organic phase is extracted twice with 100 ml of sodium chloride solution each time, dried over sodium sulfate and evaporated. The brown oil obtained is heated in 100 ml of toluene. The separated precipitate is filtered under suction and the filtrate is chromatographed on a 30-fold amount of silica gel with toluene/ethyl acetate (4:1). After recrystallization from ethyl acetate/hexane there is obtained o-acetylphenyl 3,4-dimethoxy-5-nitrobenzoate in the form of yellowish crystals of m.p. 108°-109°.

reactant | 2-hydroxyacetophenone | 11.25 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | sodium hydride | [H-].[Na+]
reactant | 3,4-dimethoxy-5-nitrobenzoyl chloride | 20.3 g | COC=1C=C(C(=O)Cl)C=C(C1OC)[N+](=O)[O-] | C9H8ClNO5
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | dimethyformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | o-acetylphenyl 3,4-dimethoxy-5-nitrobenzoate | COC=1C=C(C(=O)OC2=C(C=CC=C2)C(C)=O)C=C(C1OC)[N+](=O)[O-] | C17H15NO7
